US09029395B2
To a solution of 6-(((2S,4R)-1-acetyl-2-methyl-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,2,3,4-tetrahydroquinolin-4-yl)amino)nicotinonitrile (for a preparation see Intermediate 5) (1.67 g, 3.86 mmol), ethyl 2-(4-bromophenyl)acetate (1.127 g, 4.64 mmol) and potassium carbonate (1.602 g, 11.59 mmol) in toluene (10 mL) and ethanol (10.0 mL) was added tetrakis(triphenylphosphine)palladium(0) (0.446 g, 0.386 mmol) under nitrogen. The reaction mixture heated at 100° C. for 1 h, then partitioned between EtOAc and water. The layers were separated and the aqueous phase was extracted with EtOAc (×3). The combined organic layers were washed with brine, dried (MgSO4), filtered and concentrated in vacuo. The residue was purified by flash chromatography on silica gel (25 g), eluting with an EtOAc/cyclohexane gradient (10 to 80%). The appropriate fractions were combined and concentrated in vacuo to give ethyl 2-(4-((2S,4R)-1-acetyl-4-((5-cyanopyridin-2-yl)amino)-2-methyl-1,2,3,4-tetrahydroquinolin-6-yl)phenyl)acetate (752 mg, 42%) as a viscous colourless oil. LCMS (Formate, 2 min), Rt=1.10 min, MH+=469.

reactant | 6-(((2S,4R)-1-acetyl-2-methyl-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,2,3,4-tetrahydroquinolin-4-yl)amino)nicotinonitrile | C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)B1OC(C(O1)(C)C)(C)C)NC1=NC=C(C#N)C=C1)C | C24H29BN4O3
reactant | ethyl 2-(4-bromophenyl)acetate | 4.64 mmol, 1.127 g | BrC1=CC=C(C=C1)CC(=O)OCC | C10H11BrO2
reactant | potassium carbonate | 11.59 mmol, 1.602 g | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 10.0 mL | C(C)O | C2H6O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.386 mmol, 0.446 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | ethyl 2-(4-((2S,4R)-1-acetyl-4-((5-cyanopyridin-2-yl)amino)-2-methyl-1,2,3,4-tetrahydroquinolin-6-yl)phenyl)acetate | 752 mg, 42% | C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)C1=CC=C(C=C1)CC(=O)OCC)NC1=NC=C(C=C1)C#N)C | C28H28N4O3
